US03954756
In 50 parts by volume of ethanol is dissolved 14 parts of α-methoxymethylene-β-formylaminopropionitrile. To the solution is added 100 parts by volume of an ethanol solution containing 17 parts of propioamidine. The mixture is reacted at 30°C for 0.5 hour. After the reaction, ethanol is distilled off and the residue is cooled at 25°C, whereby 18 parts of 2-ethyl-4-amino-5-formylaminomethylpyrimidine is obtained as crystals. (Yield: 100 %). Recrystallization of the crystals from benzene-ethanol mixture gives colorless crystals melting at 185°C.

reactant | propioamidine | C(CC)(=N)N | C3H8N2
reactant | α-methoxymethylene-β-formylaminopropionitrile | COC=C(C#N)CNC=O | C6H8N2O2
solvent | ethanol | C(C)O | C2H6O
product | 2-ethyl-4-amino-5-formylaminomethylpyrimidine | Yield: 100 % | C(C)C1=NC=C(C(=N1)N)CNC=O | C8H12N4O
